US08685980B2
Following Buchwald Method B, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (170 mg, 0.58 mmol) and 4-[(6-amino-pyridine-3-carbonyl)-methyl-amino]-piperidine-1-carboxylic acid tert-butyl ester (292 mg, 0.87 mmol), followed by deprotection using General Procedure A to give 7-cyclopentyl-2-[5-(methyl-piperidin-4-yl-carbamoyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (46 mg, 16%). MS (ESI) m/z 491.3 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.58 mmol, 170 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 4-[(6-amino-pyridine-3-carbonyl)-methyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | 0.87 mmol, 292 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)C(=O)C=1C=NC(=CC1)N | C17H26N4O3
product | 7-cyclopentyl-2-[5-(methyl-piperidin-4-yl-carbamoyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 46 mg, 16% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(N(C2CCNCC2)C)=O)N1C1CCCC1)C | C26H34N8O2
